US06410790B1
0.88 g (36.3 mmole) of magnesium turnings was stirred in 10 ml of tetrahydrofuran of analysis purity. 4.55 ml (36.3 mmole) of 4-bromoanisole dissolved in 30 ml of tetrahydrofuran were added dropwise so that the reaction mixture boiled gently. After completion of the addition the reaction mixture was stirred for a further hour at RT. 7.0 g (30.3 mmole) of 2-(dimethylaminophenylmethyl)cyclohexanone prepared according to Example 1 were dissolved in 10 ml of tetrahydrofuran, added dropwise to the Grignard reagent while cooling in an ice bath, and stirred for 15 hours at RT. The reaction solution was worked up by adding 40 ml of saturated ammonium chloride solution while cooling in an ice bath, and extracted three times at RT with in each case 100 ml of ethyl acetate. The combined organic extracts were dried over sodium sulfate, filtered and concentrated by evaporation on a rotary evaporator (500 to 10 mbar). 10.5 g of crude base (102% of theory) were obtained. 4.24 g of 2-(dimethylaminophenylmethyl)-1-(4-methoxyphenyl)cyclohexanol, hydrochloride (37.2% of theory) were obtained from the crude base according to the procedure described in Example 1 (3rd stage) with chlorotrimethylsilane/water in 2-butanone. The hydrochloride decomposes on heating above 150° C.

reactant | magnesium | 36.3 mmole, 0.88 g | [Mg] | Mg
reactant | 4-bromoanisole | 36.3 mmole, 4.55 ml | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 2-(dimethylaminophenylmethyl)cyclohexanone | 30.3 mmole, 7.0 g | CN(C)C(C1C(CCCC1)=O)C1=CC=CC=C1 | C15H21NO
reactant | ammonium chloride | 40 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-(dimethylaminophenylmethyl)-1-(4-methoxyphenyl)cyclohexanol, hydrochloride | 4.24 g, 37.2% | Cl.CN(C)C(C1C(CCCC1)(O)C1=CC=C(C=C1)OC)C1=CC=CC=C1 | InChI=1S/C22H29NO2.ClH/c1-23(2)21(17-9-5-4-6-10-17)20-11-7-8-16-22(20,24)18-12-14-19(25-3)15-13-18;/h4-6,9-10,12-15,20-21,24H,7-8,11,16H2,1-3H3;1H
